US06201027B1
3,5-Dichloro-4-[(carboxymethyl)thio]benzoic acid ethyl ester
4-Amino-3,5-dichlorobenzoic acid ethyl ester (17.7 g) was dissolved in a mixture of acetic acid (75 mL) and dichloromethane (75 mL) and then methanesulfonic acid (22 mL) was added. 3-Methylbutyl nitrite (10 mL) was added to the solution while the temperature was kept at 0-5° C. After 30 min, mercaptoacetic acid (38 mL) was added at 0-5° C. Then a part of the dichloromethane was removed by distillation which was stopped when the internal temperature of the mixture was 80° C. and this temperature was kept for additional 45 min. The mixture was cooled and the rest of the solvents were evaporated under vacuum. Toluene (300 mL), water (200 mL) and hydrochloric acid (6 M, 80 mL) were added. The organic phase was separated and then extracted with potassium bicarbonate solution (1 M, 200 mL) which was acidified with hydrochloric acid (6M, 50 mL). The product was extracted to toluene (100 mL) which was dried (sodium sulphate) and evaporated to dryness (yield 5.1 g). 1H-NMR (400 MHz, DMSO-d6) d=1.33 (t, J=7.0 Hz, 3H), 3.74 (s, 2H), 4.34 (q, J=7.0 Hz, 2H), 7.97 (s, 2H), 12.5 (b, 1H).

reactant | 4-Amino-3,5-dichlorobenzoic acid ethyl ester | 17.7 g | C(C)OC(C1=CC(=C(C(=C1)Cl)N)Cl)=O | C9H9Cl2NO2
reactant | methanesulfonic acid | 22 mL | CS(=O)(=O)O | CH4O3S
reactant | 3-Methylbutyl nitrite | 10 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | mercaptoacetic acid | 38 mL | SCC(=O)O | C2H4O2S
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3,5-Dichloro-4-[(carboxymethyl)thio]benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Cl)SCC(=O)O)Cl)=O | C11H10Cl2O4S
